US07517987B2
Step C: 5-Fluoro-4-hydroxy-3-[(S)-2-(2-oxo-2H-pyridin-1-yl)-propionylamino]-pentanoic acid tert-butyl ester
A stirred mixture of (S)-2-(2-Oxo-2H-pyridin-1-yl)-propionic acid (70 mg, 0.42 mmol), 3-Amino-5-fluoro-4-hydroxy-pentanoic acid tert-butyl ester (91 mg, 0.44 mmol), HOAt (63 mg, 0.46 mmol) and DMAP (59 mg, 0.48 mmol) and anhydrous THF (5 ml) was cooled to 0° C. then EDC (88 mg, 0.46 mmol) was added. The mixture was allowed to warm to room temperature during 16 h then concentrated under reduced pressure. The residue was purified by flash chromatography (3% methanol in ethyl acetate) to afford the title compound as a white foam (137 mg, 92%): 1H NMR (400 MHz, CDCl3) δ 1.3-1.5 9H, 2×s), 2.5-2.7 2H, m), 3.4-3.7 1H, m), 3.9-4.6 4H, m), 5.4-5.6 1H, m), 6.2-6.3 1H, m), 6.5-6.6 1H, m), 7.1-7.6 3H, m); 19F NMR (376 MHz, CDCl3) δ −230.14, −230.14, −230.17, −230.95, −231.07.

reactant | (S)-2-(2-Oxo-2H-pyridin-1-yl)-propionic acid | 0.42 mmol, 70 mg | O=C1N(C=CC=C1)[C@H](C(=O)O)C | C8H9NO3
reactant | 3-Amino-5-fluoro-4-hydroxy-pentanoic acid tert-butyl ester | 0.44 mmol, 91 mg | C(C)(C)(C)OC(CC(C(CF)O)N)=O | C9H18FNO3
reactant | HOAt | 0.46 mmol, 63 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.46 mmol, 88 mg
catalyst | DMAP | 0.48 mmol, 59 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-Fluoro-4-hydroxy-3-[(S)-2-(2-oxo-2H-pyridin-1-yl)-propionylamino]-pentanoic acid tert-butyl ester | 137 mg, 92% | C(C)(C)(C)OC(CC(C(CF)O)NC([C@H](C)N1C(C=CC=C1)=O)=O)=O | C17H25FN2O5
